US07071201B2
(82-1) trans-1-(1-Acetyl-3-hydroxymethylpiperidin-4-yl)indoline
To a solution of trans-1-(1-acetyl-3-ethoxycarbonyl-piperidin-4-yl)indoline (780 mg) in ethanol (40 ml) was added sodium borohydride (5.7 g) in 3 portions at 30 min. intervals. After stirring at room temperature overnight, sodium borohydride (3.3 g) was added thereto and the resultant mixture was stirred for additional 4 hr. Then ethyl acetate (20 ml) and water (50 ml) were successively added carefully to the reaction mixture followed by extraction with ethyl acetate (50 ml) for three times. The organic phase was washed with water (100 ml) twice and brine once, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol system) to give the title compound (250 mg) as a yellow powder (yield: 39%).

reactant | trans-1-(1-acetyl-3-ethoxycarbonyl-piperidin-4-yl)indoline | 780 mg | C(C)(=O)N1C[C@H]([C@@H](CC1)N1CCC2=CC=CC=C12)C(=O)OCC | C18H24N2O3
reactant | sodium borohydride | 5.7 g | [BH4-].[Na+]
reactant | sodium borohydride | 3.3 g | [BH4-].[Na+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | trans-1-(1-Acetyl-3-hydroxymethylpiperidin-4-yl)indoline | 250 mg, yield: 39% | C(C)(=O)N1C[C@H]([C@@H](CC1)N1CCC2=CC=CC=C12)CO | C16H22N2O2
